US06034239
N-[2-(4-bromo-2-hydroxymethyl-2-methyl-1,6,7,8-tetrahydro-2H-indeno[5,4-b]furan-8-yl)ethyl]propionamide
A solution of N-[2-(5-bromo-6-hydroxy-7-(2-methyl-2-propenyl)indan-1-yl)ethyl]propionamide (550 mg, 1.5 mmol.) in dichloromethane (5 mL) was cooled with ice. To the solution were added triethylamine (0.2 mL, 1.5 mmol.) and methachloroperbenzoic acid (1.0 g, 4.1 mmol.). The mixture was stirred for two hours at room temperature. The reaction mixture was poured into an aqueous solution of sodium thiosulfate. The organic matter was extracted with ethyl acetate. The extract solution was washed with 1N HCl and a saturated aqueous solution of sodium hydrogencarbonate, which was then dried over anhydrous magnesium sulfate, followed by distilling off the solvent. The residue was dissolved in dichloromethane, to which was added triethylamine (1 mL). The mixture was stirred for 2 hours at room temperature. The solvent was distilled off under reduced pressure, and the residue was purified by means of silica gel column chromatography (chloroform:methanol=10:1) to afford the title compound (yield 420 mg, 73%) as an oily product.

reactant | N-[2-(5-bromo-6-hydroxy-7-(2-methyl-2-propenyl)indan-1-yl)ethyl]propionamide | 1.5 mmol, 550 mg | BrC=1C=C2CCC(C2=C(C1O)CC(=C)C)CCNC(CC)=O | C18H24BrNO2
reactant | triethylamine | 1.5 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-[2-(4-bromo-2-hydroxymethyl-2-methyl-1,6,7,8-tetrahydro-2H-indeno[5,4-b]furan-8-yl)ethyl]propionamide | yield 420 mg, 73% | BrC1=CC=2CCC(C2C2=C1OC(C2)(C)CO)CCNC(CC)=O | C18H24BrNO3
